US08563575B2
132c) 1-ethyl-6-fluoro-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a stirred solution of 1-ethyl-6-fluoro-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) in DMF (4 mL) was added 60% sodium hydride (13.2 mg) at room temperature. The mixture was stirred at room temperature for 30 min, and then 2-chloro-1-methyl-1H-benzimidazole (67.1 mg) was added. The mixture was exposed to microwave irradiation at 180° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on NH-silica gel eluting with AcOEt/Hexane. Crystallization from AcOEt/Hexane gave the title compound (104 mg).

reactant | 1-ethyl-6-fluoro-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | C(C)N1C(N(C2=NC=C(C=C21)F)C2=CC=C(C=C2)O)=O | C14H12FN3O2
reactant | sodium hydride | 13.2 mg | [H-].[Na+]
reactant | 2-chloro-1-methyl-1H-benzimidazole | 67.1 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-6-fluoro-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 104 mg | C(C)N1C(N(C2=NC=C(C=C21)F)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1)=O | C22H18FN5O2
